US07893056B2
A solution of 1-phenyl-N-{[(3S)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine (assumed 87.79 g, 296.2 mmol) and N,N-diisopropylethylamine (67.1 mL, 385.2 mmol) in THF (1000 mL) was cooled to 0° C. To the solution was added ethyl chloro(oxo)acetate (36.3 mL, 326.2 mmol) dropwise via addition funnel. The resulting mixture was allowed to stir and warm to room temperature for 1 h. The solvent was then removed in vacuo to approximately 20% volume, and the residue was partitioned between EtOAc (600 mL), water (100 mL) and sat. aqueous NaHCO3 (500 mL). The aqueous phase was extracted with a fresh portion of EtOAc (200 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was then azeotroped with EtOH (100 mL) to provide ethyl oxo((phenylmethyl){[(3S)-4-(phenylmethyl)-3-morpholinyl]methyl}amino)acetate as a yellow oil that was used without further purification. LCMS: (M+H)+: 397.2.

reactant | 1-phenyl-N-{[(3S)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine | 296.2 mmol, 87.79 g | C1(=CC=CC=C1)CNC[C@@H]1N(CCOC1)CC1=CC=CC=C1 | C19H24N2O
reactant | N,N-diisopropylethylamine | 385.2 mmol, 67.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl chloro(oxo)acetate | 326.2 mmol, 36.3 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | ethyl oxo((phenylmethyl){[(3S)-4-(phenylmethyl)-3-morpholinyl]methyl}amino)acetate | O=C(C(=O)OCC)N(C[C@@H]1N(CCOC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H28N2O4
